US07947689B2
4-Methyl-6,7-dihydro-thieno[3,2-c]pyridine
In close analogy to the procedure described above, N-(2-Thiophen-2-yl-ethyl)-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-(2-Thiophen-2-yl-ethyl)-acetamide | S1C(=CC=C1)CCNC(C)=O | C8H11NOS
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 4-Methyl-6,7-dihydro-thieno[3,2-c]pyridine | CC1=NCCC2=C1C=CS2 | C8H9NS
